US08003692B2
3-Benzo[b]thiophen-2-yl-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and benzothiophene-2-boronic acid according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography yielded the product (134 mg, 89%) as a white solid. 1H NMR (300 MHz, CDCl3): δ 7.73-7.82 (m, 2H), 7.58 (s, 1H), 7.31-7.39 (m, 2H), 6.46 (s, 1H), 2.87 (td, J=5.9, 1.2 Hz, 2H), 2.51 (t, J=6.3 Hz, 2H), 2.18 (quintet, J=6.3 Hz, 2H). 13C (75 MHz, CDCl3): 199.3, 152.5, 142.6, 140.2, 139.8, 126.3, 125.04, 125.0, 124.9, 124.6, 122.5, 37.6, 27.9, 22.8. HRMS (LCT Electrospray): mass calcd for (C14H12OS+Na) m/z 251.0507; measured [M+Na]+: m/z 251.0501.

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | benzothiophene-2-boronic acid | S1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO2S
product | 3-Benzo[b]thiophen-2-yl-cyclohex-2-enone | 134 mg, 89% | S1C2=C(C=C1C1=CC(CCC1)=O)C=CC=C2 | C14H12OS
